US20010041802A1
(1-methoxy-6-(2-pyridyl)-6H-dibenzo(b,d)pyran-8-yl)methanesulfonamide
A solution of (4-(2-methoxy-6-methoxymethoxyphenyl)-5-(1-hydroxy-1-(2-pyridyl)methyl)phenyl methanesulfonamide (0.030 g, 0.075 mmol), prepared according to the procedures of Examples 32A-F, in THF (1 mL) was treated with tributylphoshine (0.045 g, 0.23 mmol) and 1,1′-(azodicarbonyl)dipiperidine (0.057 g, 0.23 mmol), stirred for 4 hours at room temperature, and treated with saturated NaCl (10 mL) and ethyl acetate (10 mL) to provide two layers. The layers were separated, and the aqueous layer was extracted with ethyl acetate. The extract was dried (Na2SO4), filtered, and concentrated. The concentrate was purified by reverse phase HPLC with 20-100% CH3CN/water to provide the desired product. MS (ESI(−)Q1MS) m/z 381 (M-H)−; 1H NMR (300 MHz, DMSO-d6) δ 9.83 (s, 1H), 8.53 (m, 1H), 8.31 (d, J=8 Hz, 1H), 7.79 (dt, J=8 Hz, 2 Hz, 1H), 7.39 (d, J=8 Hz, 1H), 7.32 (m, 1H), 7.22 (m, 1H), 7.18 (d, J=8 Hz, 1H), 6.93 (d, J=2 Hz, 1H), 6.75 (d, J=8 Hz, 1H), 6.70 (d, J=8 Hz, 1H), 6.21 (s, 1H), 3.90 (s, 3H), 3.00 (s, 3H).

reactant | 4-(2-methoxy-6-methoxymethoxyphenyl)-5-(1-hydroxy-1-(2-pyridyl)methyl)phenyl methanesulfonamide | 0.075 mmol, 0.030 g | COC1=C(C(=CC=C1)OCOC)C1=CC=C(C=C1C(C1=NC=CC=C1)O)CS(=O)(=O)N | C22H24N2O6S
reactant | tributylphoshine | 0.23 mmol, 0.045 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.23 mmol, 0.057 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (1-methoxy-6-(2-pyridyl)-6H-dibenzo(b,d)pyran-8-yl)methanesulfonamide | COC1=CC=CC=2OC(C3=C(C21)C=CC(=C3)CS(=O)(=O)N)C3=NC=CC=C3 | C20H18N2O4S
